US06710064B2
(7aS,6S)-2-(3,5-dichloro-phenyl)-6-(4-bromophenoxy)-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione
To a solution of (7aS,6R)-2-(3,5-dichloro-phenyl)-6-hydroxy-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione (0.5 g) (1.67 mmol) (Preparation 2), Ph3P (0.44 g) (1eq.) and 4-bromophenol (0.29 g) (1 eq.) in 5 mL of dry THF at 0° C. was added DIAD (0.337 g) in a minimal volume of THF. The reaction mixture was warmed to RT overnight. After evaporating the solvent, the residue was dissolved in DCM, washed with NaHCO3 solution, water, dried over MgSO4, and the solvent was evaporated under reduced pressure, to afford after SiO2 chromatography (eluent: DCM) the titled compound as a white solid (50 mg). Mp=116° C. NMR (DMSO, 200 MHz): 7.75 (1H, m), 7.5-7.4 (4H, d+d), 6.85 (2H, d), 5.1 (1H, m), 4.6 (1H, dd), 3.95 (1H, dd), 3.35 (1H, dd), 2.7-2.5 (1H, m), 2.25 (1H, bd).

reactant | (7aS,6R)-2-(3,5-dichloro-phenyl)-6-hydroxy-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione | 1.67 mmol, 0.5 g | ClC=1C=C(C=C(C1)Cl)N1C(N2[C@H](C1=O)C[C@H](C2)O)=O | C12H10Cl2N2O3
reactant | Ph3P | 0.44 g, 1eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-bromophenol | 0.29 g, 1 eq. | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | DIAD | 0.337 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (7aS,6S)-2-(3,5-dichloro-phenyl)-6-(4-bromophenoxy)-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione | 50 mg | ClC=1C=C(C=C(C1)Cl)N1C(N2[C@H](C1=O)C[C@@H](C2)OC2=CC=C(C=C2)Br)=O | C18H13BrCl2N2O3
